US08957062B2
Step A. Preparation of racemic tert-Butyl 4-[(1Z)-4-(benzyloxy)but-1-en-1-yl]piperidine-1-carboxylate
(3-Benzyloxypropyl)triphenylphosphonium bromide (2.88 g, 5.86 mmol) was suspended in 15 mL THF and cooled to 0° C. Sodium bis(trimethylsily)amide (1M in THF, 5.63 mL, 5.63 mmol) was added dropwise. The mixture turned deep orange. tert-Butyl 4-formylpiperidine-1-carboxylate (1 g, 4.69 mmol) in 3 mL THF was added after 5 minutes. Color faded to slight yellow. The reaction was stirred at RT for 1.5 hours, before quenching with saturated aqueous ammonium chloride solution. The aqueous layer was extracted twice with ethyl acetate. The organic layers were combined, washed with water and brine, dried over sodium sulfate, filtered, concentrated and purified by passing through a 40 gram Biotage silica gel cartridge using 20% EtOAc/hexanes to afford the product as colorless oil. NMR integration indicated >20:1 Z/E selectivity. LRMS calc: 345.2; obs: 346.5 (M+1).

reactant | (3-Benzyloxypropyl)triphenylphosphonium bromide | 5.86 mmol, 2.88 g | [Br-].C(C1=CC=CC=C1)OCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | Sodium bis(trimethylsily)amide | 5.63 mmol, 1M, 5.63 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | tert-Butyl 4-formylpiperidine-1-carboxylate | 4.69 mmol, 1 g | C(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C11H19NO3
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | racemic tert-Butyl 4-[(1Z)-4-(benzyloxy)but-1-en-1-yl]piperidine-1-carboxylate | C(C1=CC=CC=C1)OCC\C=C/C1CCN(CC1)C(=O)OC(C)(C)C | C21H31NO3
